US04138485
Preparation of N-(4-methylbenzylthiocarbonyl)-L-phenylalanine:
16.5 G (0.1 mol) of L-phenylalanine and 27.8 ml (0.2 mol) of triethylamine were dissolved in 100 ml of water. To this solution was added dropwise 150 ml of dioxane containing 6.0 g (0.1 mol) of carbonyl sulfide at a temperature of from 5°to 10° C in 15 minutes while cooling with ice. After stirring at a temperature of 10° C for 15 minutes, 14.1 g (0.1 mol) of 4-methylbenzylchloride was added dropwise to the solution in 10 minutes and the solution was then stirred at room temperature for 1 hour. After completion of the reaction, a syrup-like substance was formed in a similar manner to that described in Example 1, which was then crystallized from 60 ml of ethylacetate and 300 ml of petroleum ether to obtain 25.7 g of white crystals.

reactant | L-phenylalanine | 0.1 mol | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | triethylamine | 0.2 mol, 27.8 ml | C(C)N(CC)CC | C6H15N
reactant | dioxane | 0.1 mol, 150 ml, 6.0 g | O1CCOCC1 | C4H8O2
reactant | carbonyl sulfide | C(=O)=S | COS
reactant | 4-methylbenzylchloride | 0.1 mol, 14.1 g | CC1=CC=C(CCl)C=C1 | C8H9Cl
solvent | water | 100 ml | O | H2O
product | N-(4-methylbenzylthiocarbonyl)-L-phenylalanine | 25.7 g, Yield: 78.1% | CC1=CC=C(CC(=S)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C1 | C18H19NO2S
